data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][NH+:21](C)S(C(C)(C)C)([O-])Cl.CC[N:10](CC)CC>>[H:20][N+:10](CC)(CC)CC.CC(C)(C)S([NH:21]C)([O-])Cl 10=20;20,21=21
CCCO[C:20](=[O:21])CC.[OH-:10]>>CCCO[C:20](CC)([OH:10])[O-:21] 10=20;20,21=21
C1CC[C:10](=[N:20][OH2+:21])[C:11](CC1)(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-]>>C1=CC=C(C=C1)[C+:11](CCCCC[C:10]#[N:20])C2=CC=CC=C2.[OH2:21].[Cl-] 10,11=10,20;20,21=21
[H:20][O+:21](C)C12C(CCO1)(C3=C(O2)C=CC=C3)C4=CC=CC=C4.C[OH:10].[Br-]>>[H:20][OH+:10]C.C[O:21]C12C(CCO1)(C3=C(O2)C=CC=C3)C4=CC=CC=C4.[Br-] 10=20;20,21=21
CCCC1CCC2C1(CCC3C2C[CH:11]=[C:10]4C3(CC[CH:20](C4)[O:21]S(=O)(=O)C5=CC=C(C=C5)C)C)C.CO>>CCCC1CCC2C1(CCC3C2C[CH+:11][C:10]45C3(CC[CH:20]4C5)C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CO 10,11=10,20;20,21=21
[Li:11][C:10](=C=C)OC.CC([CH:20]=[O:21])C1=CC=CC=C1>>[Li+:11].CC(C1=CC=CC=C1)[CH:20]([C:10](=C=C)OC)[O-:21] 10,11=10,20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC(=O)CCC(=[O:10])C>>[H:20][O+:10]=C(C)CCC(=O)C.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][OH+:21]CCCC.CCCCOC(C1=CC=C(C=C1)[N+](=O)[O-])(O)[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH+:10]C(C1=CC=C(C=C1)[N+](=O)[O-])(O)OCCCC.CCCC[OH:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][OH2+:21].CC(=O)CC[CH:10]=[C:11](N)[O-:12]>>[H:20][CH:10](CCC(=O)C)[C:11](=[O:12])N.[OH2:21] 10,11=10,20;20,21=21;12=11
C[O:10]C.CO[Si:20](C)(C)C>>CO[Si-:20](C)(C)(C)[O+:10](C)C 10=20,
CC(=O)C1=CC=C[CH:10]=[CH:11]1.O[S+:20](=O)=O>>CC(=O)C1=CC=C[CH:10]([CH+:11]1)[S:20](=O)(=O)O 10,11=10,20
[H:20][CH2:21][C:22](=[N+:23]1CCCC1)CCCC(=O)NCC.CC(=C)[N:10]1CCCC1>>[H:20][N+:10]1(CCCC1)C(=C)C.CCNC(=O)CCC[C:22](=[CH2:21])[N:23]1CCCC1 10=20;22,23=23;20,21=21,22
CC[OH:10].CNC(=O)CC[C:20](=[OH+:21])OC>>CC[OH+:10][C:20](CCC(=O)NC)([OH:21])OC 10=20;20,21=21
[H:20][N+:21](=CCC(C)(C)C)CC(=O)NC1=C(C=C(C=C1)OCCOC(=O)C)OC.CC[N:10](CC)CC.C(=O)(C(F)(F)F)[O-].O>>[H:20][N+:10](CC)(CC)CC.CC(=O)OCCOC1=CC(=C(C=C1)NC(=O)C[N:21]=CCC(C)(C)C)OC.C(=O)(C(F)(F)F)[O-].O 10=20;20,21=21
[H:20][N+:21](=C(C)C)O.[NH2:10]O>>[H:20][NH2+:10]O.CC(=[N:21]O)C 10=20;20,21=21
[H:20][O:21]C(=O)C.COC(=O)[C-](C(CC1=CC=CC=C1)[N:10]2CCCCC2)C(=O)O.[OH3+]>>[H:20][N+:10]1(CCCCC1)C(CC2=CC=CC=C2)[C-](C(=O)O)C(=O)OC.CC(=O)[O-:21].[OH3+] 10=20;20,21=21
[H:20][C:21]12CCC[C+:22]1CCCC2(C)C.[OH2:10]>>[H:20][OH2+:10].CC1(CCC[C:22]2=[C:21]1CCC2)C 10=20;20,21=21,22
[H:20][O:21]C(=O)C1=C(C2=C(C=C(C=C2C=C1OCC3=CC=CC=C3)OC)OC)OC.CCOC(=O)N[N-:10]C(=O)OCC.COC1=CC(=C2C(=C1)C=C(C(=C2OC)Br)CO[P+](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)OC>>[H:20][N:10](C(=O)OCC)NC(=O)OCC.COC1=CC(=C2C(=C1)C=C(C(=C2OC)C(=O)[O-:21])OCC3=CC=CC=C3)OC.COC1=CC(=C2C(=C1)C=C(C(=C2OC)Br)CO[P+](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)OC 10=20;20,21=21
CCC[C:20](=[O:21])OC.[OH-:10]>>CCC[C:20]([OH:10])([O-:21])OC 10=20;20,21=21
[CH:20](=[OH+:21])O.[I-:10]>>[CH:20](O)([OH:21])[I:10] 10=20;20,21=21
C1=CC=C(C=C1)C(=NCC[NH2:10])[C:20](=[O:21])C2=CC=CC=C2.CCO.CC(=O)O.C(CN)N.O>>C1CN=C([C:20]([NH2+:10]1)(C2=CC=CC=C2)[O-:21])C3=CC=CC=C3.CCO.CC(=O)O.C(CN)N.O 10=20;20,21=21
C1=CC(=C[CH:10]=[C:11]1O)Br.[Br:20][Br:21]>>C1=C[C+:11]([CH:10](C=C1Br)[Br:20])O.[Br-:21] 10,11=10,20;20,21=21
CC12CC[C:20](=[N+:21]3CCCC3)C=C1CCCC2=O.[OH2:10].C1CCNC1>>CC12CC[C:20](C=C1CCCC2=O)([N:21]3CCCC3)[OH2+:10].C1CCNC1 10=20;20,21=21
CC(C)N[C:20](=[NH+:21]C(C)C)[O:10][C:11](C(C)NC(=O)OC)(NC(C)C(=O)NC)[O-:12]>>CC(C(=O)NC)N[C:11](=[O:12])C(C)NC(=O)OC.CC(C)N[C:20](=[O:10])[NH:21]C(C)C 10,11=10,20;20,21=21;12=11
[B-]1(OC2=C(O1)C=CC=C2)(C(=[C+:20]CCCC)C(=N[O:10]C)C3=CC=CC=C3)Cl>>[B-]1(OC2=C(O1)C=CC=C2)(C3=[C:20]([O+:10](N=C3C4=CC=CC=C4)C)CCCC)Cl 10=20,
CC(C)(C(C(C(=O)OC)C(=O)OC)C(C(=O)OC)[C:20](=[O:21])OC)[O-:10].C(=O)(O)[O-].[Cl-]>>CC1(C(C([C:20]([O:10]1)([O-:21])OC)C(=O)OC)C(C(=O)OC)C(=O)OC)C.C(=O)(O)[O-].[Cl-] 10=20;20,21=21
[H:20][N:21]1C=NN=N1.CN(C)[P:10](OC)OC>>[H:20][P+:10](N(C)C)(OC)OC.C1=NN=N[N-:21]1 10=20;20,21=21
C[CH2:20][Br:21].[CH2:10]=[CH:11][O-:12]>>C[CH2:20][CH2:10][CH:11]=[O:12].[Br-:21] 10,11=10,20;20,21=21;12=11
CC(=O)C(CC[O-:10])[C:20](=[O:21])OC>>CC(=O)C1CC[O:10][C:20]1([O-:21])OC 10=20;20,21=21
CC1=CC=C(C=C1)[C:20]2([CH:10]([Si-:11]([O:21]2)(C)(C)C)[P+](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)O[Si](C)(C)C>>CC1=CC=C(C=C1)[C:20](=[CH:10][P+](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)O[Si](C)(C)C.C[Si:11](C)(C)[O-:21] 10,11=10,20;20,21=21
CCO[C:11](=[CH:10]C[N+]12CCN(CC1)CC2)[O-:12].C1=CC=C(C=C1)[CH:20]=[O:21]>>CCO[C:11](=[O:12])[CH:10](C[N+]12CCN(CC1)CC2)[CH:20](C3=CC=CC=C3)[O-:21] 10,11=10,20;20,21=21;12=11
C[CH+:20][O:10][Fe-](Cl)(Cl)Cl>>C[CH:20]=[O+:10][Fe-](Cl)(Cl)Cl 10=20,
[H:20][C:21]1([CH+:22]C=C(O1)C)Br.[Br-:10]>>[H:20][Br:10].CC1=C[CH:22]=[C:21](O1)Br 10=20;20,21=21,22
[H:20][N+:21]1=CC=CC=C1.CCCC[NH2+]C1(CCCC2=C(C=NC=C21)Br)[O-:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][O:10]C1(CCCC2=C(C=NC=C21)Br)[NH2+]CCCC.C1=CC=[N:21]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
C[N+:21](=[CH:20]C(F)(F)F)C.C[Si](C)(C)C[CH:11]=[CH2:10]>>C[N:21](C)[CH:20]([CH2:10][CH+:11]C[Si](C)(C)C)C(F)(F)F 10,11=10,20;20,21=21
